US08314081B2
To a 250 mL dry round bottom flask were added 2,6-difluoro-4-hydroxybenzaldehyde (5.53 g, 35.0 mmol), anhydrous CH2Cl2 (40 mL) and pyridine (3.68 mL, 45.5 mmol). The mixture was stirred in an ice-water bath, then 4-morpholinecarbonyl chloride (4.4 mL, 37.4 mmol) was added. After stirring at 0° C. for 1 hour, the mixture was stirred at room temperature overnight. Water (80 mL) and CH2Cl2 (50 mL) were added to the reaction mixture. The CH2Cl2 layer was separated, and the aqueous layer was extracted continually with CH2Cl2 (50 mL×3). The combined CH2Cl2 solution was dried over Na2SO4. After removal of the solvent, the residue was purified with a silica gel chromatography (heptane/ethyl acetate, gradient eluting) to give 3,5-difluoro-4-formylphenyl morpholine-4-carboxylate (8.90 g) as white solid. Yield: 94%. 1H NMR (CDCl3, 300 MHz): δ=10.28 (s, 1H), 6.91 (dd, J=10.8, 1.5 Hz, 2H), 3.77-3.58 (m, 8H). 13C NMR (CDCl3, 75.5 MHz, mixture of two isomers): δ=183.7, 163.8 (dd, J=263.1, 8.53 Hz), 157.0 (t, J=15.3 Hz), 151.8, 111.7 (t, J=11.5 Hz), 106.6 (dd, J=25.1, 3.70 Hz), 66.6, 66.5, 45.2, 44.5.

reactant | 2,6-difluoro-4-hydroxybenzaldehyde | 35.0 mmol, 5.53 g | FC1=C(C=O)C(=CC(=C1)O)F | C7H4F2O2
reactant | pyridine | 45.5 mmol, 3.68 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-morpholinecarbonyl chloride | 37.4 mmol, 4.4 mL | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 80 mL | O | H2O
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 3,5-difluoro-4-formylphenyl morpholine-4-carboxylate | 8.90 g, Yield: 94% | N1(CCOCC1)C(=O)OC1=CC(=C(C(=C1)F)C=O)F | C12H11F2NO4
